US06875784B2
6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester
Benzyl-3-pyrroline-1-carboxylate (5 g, 24.6 mmol) and 3-chloroperoxybenzoic acid (8.5 g, 49.2 mmol) were dissolved in dichloromethane (250 μL) and stirred for 16 h at room temperature. The reaction mixture was washed with sat. NaHCO3, brine and dried (MgSO4). The title compound was isolated by silica gel chromatography (0-35% EtOAc-hexanes).

reactant | Benzyl-3-pyrroline-1-carboxylate | 24.6 mmol, 5 g | C(C1=CC=CC=C1)OC(=O)N1CC=CC1 | C12H13NO2
reactant | 3-chloroperoxybenzoic acid | 49.2 mmol, 8.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 250 μL | ClCCl | CH2Cl2
product | 6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2OC2C1 | C12H13NO3
